US04595685
2,3-Dihydro-4-phenyl-2-(2-methoxyphenyl)benzothiazin-3-one
2.7 g of 2,3-dihydro-2-(2-methoxyphenyl)benzothiazin-3-one, together with 1.2 g of potassium acetate, 6 g of iodobenzene and copper on an aluminum oxide support as the catalyst, in 80 ml of mesitylene are heated at 160° C. for 6 hours under a water separator which is charged with 2 g of barium oxide and 5 g of silica gel. After filtration, the residue is washed with dilute ammonia, and the filtrate is concentrated and chromatographed on 100 g of silica gel using ispropyl ether. 2.6 g of crude product are obtained, and this crystallizes from isopropyl ether/a little acetone, melting point 133° C.

reactant | 2,3-dihydro-2-(2-methoxyphenyl)benzothiazin-3-one | 2.7 g | COC1=C(C=CC=C1)N1SC2=C(CC1=O)C=CC=C2 | C15H13NO2S
reactant | potassium acetate | 1.2 g | C(C)(=O)[O-].[K+]
reactant | iodobenzene | 6 g | IC1=CC=CC=C1 | C6H5I
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | barium oxide | 2 g | [O-2].[Ba+2]
solvent | mesitylene | 80 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | copper | [Cu] | Cu
product | 2,3-Dihydro-4-phenyl-2-(2-methoxyphenyl)benzothiazin-3-one | 2.6 g | C1(=CC=CC=C1)C1C(N(SC2=C1C=CC=C2)C2=C(C=CC=C2)OC)=O | C21H17NO2S
